US05256673
4.04 g of 3-[4-(4-phenyl-1,2,3,6-tetrahydropyridyl)-butyl]-indole-5-carboxylic acid are suspended in 25 ml of toluene, and a 3-fold molar amount of a 20% strength solution of diisobutylaluminum hydride in toluene is added dropwise, under N2 and with stirring, the mixture is boiled for 2 hours and cooled and is decomposed with water, and the product is worked up in the customary manner to give 3-[4-(4-phenyl-1,2,3,6-tetrahydropyridyl)-butyl]-5-formylindole, m.p. 131°.

reactant | 3-[4-(4-phenyl-1,2,3,6-tetrahydropyridyl)-butyl]-indole-5-carboxylic acid | 4.04 g | C1(=CC=CC=C1)C=1CCN(CC1)CCCCC1=CNC2=CC=C(C=C12)C(=O)O | C24H26N2O2
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | water | O | H2O
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | 3-[4-(4-phenyl-1,2,3,6-tetrahydropyridyl)-butyl]-5-formylindole | C1(=CC=CC=C1)C=1CCN(CC1)CCCCC1=CNC2=CC=C(C=C12)C=O | C24H26N2O
